### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/{ExteriorAlgebra,CliffordAlgebra}): Functoriality of the exterior algebra and some lemmas about generation

### PR DESCRIPTION
**Pull request by smorel394**
This does a few things:
- Define the algebra morphism `TrivSqZeroExt.map f` between trivial square-zero extensions induced by a linear map`f`, and establish some of its basic properties (functoriality, composition with the basic maps to/from `TrivSqZeroExt`). Note that we only consider the case of a commutative base ring, because the case of a general base ring requires morphisms of bimodules, which we do not have.
- Define the algebra morphism `ExteriorAlgebra.map f` between exterior algebras induced by a linear map `f`. This is a straightforward application of the similar construction for Clifford algebras, but I think it is still useful to have. Basic properties of this construction are proved: functoriality, composition with `ExteriorAlgebra.ι`, `ExteriorAlgebra.ιInv` (this part uses the first point) and `ExteriorAlgebra.ιMulti`. Then exactness properties of the construction is studied:
  - If the linear map is surjective, then the map on exterior algebras is also surjective. This actually holds for Clifford algebras, so I added a lemma called `CliffordAlgebra.map_surjective` in `LinearAlgebra/CliffordAlgebra/Basic.lean`. For exterior algebras, the converse holds and is also proved.
  - If the linear map has a retraction, then the map on exterior algebras is injective. So if the base ring is a field, the map on exterior algebras is injective if the linear map is injective.

- Establish some properties of `ExteriorAlgebra.ιMulti`:
  - `ExteriorAlgebra.ιMulti_range`: The range of `ιMulti R n` is contained in the `n`th exterior power (define here as `LinearMap.range (ι R : M →ₗ[R] ExteriorAlgebra R M) ^ n`).
  - `ExteriorAlgebra.ιMulti_span_fixedDegree`: This range spans the `n`th exterior power.
  - `ExteriorAlgebra.ιMulti_span`: The union over all `n` of the range of `ιMulti R n` spans the whole exterior algebra (this is in `LinearAlgebra/ExteriorAlgebra/Grading.lean` because the proof uses the graded module structure, but it might be possible to do something simpler).

- Construct `ExteriorAlgebra.ιMulti_family`: This takes a natural number `n` and a family of vectors `v` indexed by a linearly ordered type `I`, and it returns the family of `n`-fold products of the `v i` in the exterior algebra, indexed by the set of finsets of `I` of cardinality `n`. (The point, to be proved in another PR, is that when `v` is a basis, then `ExteriorAlgebra.ιMulti_family R n v` is a basis of the `n`th exterior power.)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by eric-wieser** [comment]
Sorry, I think I missed this one. Can you resolve the merge conflicts? Are all the changes in the conflicting file already merged?

**Comment by smorel394** [comment]
Sorry, missed your comment (busy week). I'm thinking of just doing a fresh branch and fresh PR at this point, so the conflicts will be easier to solve.

File: Mathlib/LinearAlgebra/CliffordAlgebra/Basic.lean [hunk 1]
```diff
@@ -351,6 +351,20 @@ theorem ι_range_map_map (f : Q₁ →qᵢ Q₂) :
   (ι_range_map_lift _ _).trans (LinearMap.range_comp _ _)
 #align clifford_algebra.ι_range_map_map CliffordAlgebra.ι_range_map_map
 
+/-- If a linear map preserves the quadratic forms and is surjective, then the algebra
+maps it induces betweem Clifford algebras is also surjective.-/
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/CliffordAlgebra/Basic.lean:355]:
```suggestion
maps it induces between Clifford algebras is also surjective.-/
```

File: Mathlib/LinearAlgebra/CliffordAlgebra/Basic.lean [hunk 2]
```diff
@@ -351,6 +351,20 @@ theorem ι_range_map_map (f : Q₁ →qᵢ Q₂) :
...
+lemma map_surjective {Q₁ : QuadraticForm R M₁} {Q₂ : QuadraticForm R M₂} (f : Q₁ →qᵢ Q₂)
+    (hf : Function.Surjective f) : Function.Surjective (CliffordAlgebra.map f) := by
+  rw [← LinearMap.range_eq_top, LinearMap.range_eq_map, Submodule.eq_top_iff']
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/CliffordAlgebra/Basic.lean:358]: I think this is just making work for yourself; can't you work with the definition of `Surjective` directly?

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean [hunk 3]
```diff
@@ -330,10 +330,115 @@ theorem ιMulti_succ_curryLeft {n : ℕ} (m : M) :
...
+  rw [ιMulti_apply]
+  congr
+  ext i
+  obtain ⟨v, hv⟩ := LinearMap.mem_range.mp (by simp only [SetLike.coe_mem] :
+    (f i).1 ∈ LinearMap.range (ι R (M := M)))
+  rw [← hv, ι_inj]; erw [ι_leftInverse]
+
+/-- Given a linearly ordered family `v` of vectors of `M` and a natural number `n`, produce the
+family of `n`fold exterior products of elements of `v`, seen as members of the exterior algebra.-/
+noncomputable def ιMulti_family (n : ℕ) {I : Type*} [LinearOrder I] (v : I → M) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean:367]: This is computable :)

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean [hunk 4]
```diff
@@ -330,10 +330,115 @@ theorem ιMulti_succ_curryLeft {n : ℕ} (m : M) :
...
+    {s : Finset I // Finset.card s = n} → ExteriorAlgebra R M :=
+  fun ⟨s, hs⟩ ↦ ιMulti R n (fun i => v (Finset.orderIsoOfFin s hs i))
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean:369]: This will be more pleasant to unfold as 
```suggestion
  fun s ↦ ιMulti R n (fun i => v (Finset.orderIsoOfFin _ s.prop i))
```
at which point you may as well move the `s` behind the colon.

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Grading.lean [hunk 5]
```diff
@@ -97,4 +97,24 @@ instance gradedAlgebra :
     (by apply GradedAlgebra.liftι_eq R M)
 #align exterior_algebra.graded_algebra ExteriorAlgebra.gradedAlgebra
 
+/-- The union of the images of the maps `ExteriorAlgebra.ιMulti R n` for `n` running through
+all natural numbers spans the exterior algebra.-/
+lemma ιMulti_span :
+    Submodule.span R (Set.range (fun (x : Σ (n : ℕ), (Fin n → M)) => ιMulti R x.1 x.2)) = ⊤ := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/ExteriorAlgebra/Grading.lean:103]: A little easier to read with fewer parens, perhaps:
```suggestion
    Submodule.span R (Set.range fun x : Σ n, (Fin n → M) => ιMulti R x.1 x.2) = ⊤ := by
```

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Grading.lean [hunk 6]
```diff
@@ -97,4 +97,24 @@ instance gradedAlgebra :
...
+  intro i ⟨_, hm⟩
+  apply Set.mem_of_mem_of_subset hm
+  simp only
+  rw [← ιMulti_span_fixedDegree]
+  refine Submodule.span_mono (fun _ hx ↦ ?_)
+  simp only [Set.mem_range, Sigma.exists] at hx ⊢
+  obtain ⟨y, hyx⟩ := hx
+  rw [← hyx]
+  existsi i, y
+  rfl
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/ExteriorAlgebra/Grading.lean:118]: Golfed:
```suggestion
  rw [Submodule.eq_top_iff']
  intro x
  induction x
    using DirectSum.Decomposition.inductionOn fun i => LinearMap.range (ι R (M := M)) ^ i with
  | h_zero => exact Submodule.zero_mem _
  | h_add _ _ hm hm' => exact Submodule.add_mem _ hm hm'
  | h_homogeneous hm =>
    let ⟨m, hm⟩ := hm
    apply Set.mem_of_mem_of_subset hm
    rw [← ιMulti_span_fixedDegree]
    refine Submodule.span_mono fun _ hx ↦ ?_
    obtain ⟨y, rfl⟩ := hx
    exact ⟨⟨_, y⟩, rfl⟩
```

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean [hunk 7]
```diff
@@ -330,10 +330,115 @@ theorem ιMulti_succ_curryLeft {n : ℕ} (m : M) :
...
+  rw [Set.mem_pow]
+  existsi fun i => ⟨(ι R) (v i), by simp only [SetLike.mem_coe, LinearMap.mem_range,
+    ι_inj, exists_eq]⟩
+  simp only
+
+/-- The image of `ExteriorAlgebra.ιMulti R n` spans the `n`th exterior power, as a submodule
+of the exterior algebra.-/
+lemma ιMulti_span_fixedDegree (n : ℕ) :
+    Submodule.span R (Set.range (ιMulti R n)) =
+    (LinearMap.range (ι R : M →ₗ[R] ExteriorAlgebra R M) ^ n) := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean:351]:
```suggestion
    LinearMap.range (ι R : M →ₗ[R] ExteriorAlgebra R M) ^ n := by
```

**Review by eric-wieser — COMMENTED** [review]
This is looking pretty good now! I suspect this is similar to what I was thinking of when I added `MultilinearMap.range`, but I don't think that definition is of any use for this PR.

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean [hunk 8]
```diff
@@ -330,10 +330,115 @@ theorem ιMulti_succ_curryLeft {n : ℕ} (m : M) :
       rfl
 #align exterior_algebra.ι_multi_succ_curry_left ExteriorAlgebra.ιMulti_succ_curryLeft
 
+variable (R)
+
+/-- The image of `ExteriorAlgebra.ιMulti R n` is contained in the `n`th exterior power.-/
+lemma ιMulti_range (n : ℕ) : Set.range (ιMulti R n) ⊆
+    (LinearMap.range (ι R : M →ₗ[R] ExteriorAlgebra R M) ^ n).carrier := by
```
[the remark this answers is not in the document]
Comment (smorel394) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean]: Okay, but I ran into trouble with the power, and the only way I found out of it was to coerce to `Submodule`, raise to the `n`th power then coerce to `Set`.

**Comment by eric-wieser** [comment]
>  (The point, to be proved in another PR, is that when v is a basis, then ExteriorAlgebra.ιMulti_family R n v is a basis of the nth exterior power.)

Note that there is a result about the basis of an exterior algebra already at https://github.com/eric-wieser/lftcm2023-clifford_algebra/blob/master/Projects/ExteriorAlgebra/Targets.lean#L74-L79; though that doesn't cluster by degree in the way that you're working towards (and isn't sorry-free!)

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean]: Does writing `(LinearMap.range (ι R : M →ₗ[R] ExteriorAlgebra R M) ^ n :)` work? (with the 🙂 at the end)

[the remark this answers is not in the document]
Comment (smorel394) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean]: No, I get
```
type mismatch
  LinearMap.range (ι R) ^ n
has type
  Submodule R (ExteriorAlgebra R M) : outParam (Type (max u1 u2))
but is expected to have type
  Set (ExteriorAlgebra R ?m.262794) : Type (max u1 ?u.262791)
```

**Comment by smorel394** [comment]
> > (The point, to be proved in another PR, is that when v is a basis, then ExteriorAlgebra.ιMulti_family R n v is a basis of the nth exterior power.)
> 
> Note that there is a result about the basis of an exterior algebra elsewhere at https://github.com/eric-wieser/lftcm2023-clifford_algebra/blob/master/Projects/ExteriorAlgebra/Targets.lean#L74-L79; though that doesn't cluster by degree in the way that you're working towards (and isn't sorry-free!)

Noted. I have the result about the basis of the exterior powers written up (and sorry-free) [there](https://github.com/leanprover-community/mathlib4/tree/ExteriorPower), but maybe it's possible to merge the projects ?

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean [hunk 9]
```diff
@@ -330,10 +330,115 @@ theorem ιMulti_succ_curryLeft {n : ℕ} (m : M) :
...
+    Submodule.map (ι R) (LinearMap.range f) :=
+  CliffordAlgebra.ι_range_map_map _
+
+/-- A morphism of modules that is injective and admits a linear section induces an injective
+morphism of exterior algebras.-/
+lemma map_injective {f : M →ₗ[R] N} (hf : ∃ (g : N →ₗ[R] M), g.comp f = LinearMap.id) :
+    Function.Injective (map f) :=
+  let ⟨g, hgf⟩ := hf
+  Function.RightInverse.injective (g := map g) (fun _ ↦ by
+    rw [← AlgHom.comp_apply, map_comp_map, hgf, map_id]; simp only [AlgHom.coe_id, id_eq])
```
[the remark this answers is not in the document]
Comment (smorel394) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean:429]: Will do tomorrow, I really need to go to bed now.

**Comment by eric-wieser** [comment]
Ah, perhaps I falsely assumed that you cared about the basis of the entire algebra. Indeed, the project I ran at LFTCM2023 only concerned itself with the algebra, not the subspace of powers.

**Comment by smorel394** [comment]
> Ah, perhaps I falsely assumed that you cared about the basis of the entire algebra. Indeed, the project I ran at LFTCM2023 only concerned itself with the algebra, not the subspace of powers.

I care about both, but what I really need for my own project is a basis of each exterior power.

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (smorel394) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean]: Wow, black magic. Thanks !

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean (hunk 9 above)
[the remark this answers is not in the document]
Comment (smorel394) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean]: I wrote the lemma about left inverses. For the linear maps, I'm keeping the "left inverse" condition as `g.comp f = LinearMap.id` rather than `LeftInverse g f`, because this is the condition that [LinearMap.exists_leftInverse_of_injective](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Basis/VectorSpace.html#LinearMap.exists_leftInverse_of_injective) gives me in its conclusion, so it makes the lemma easier to use for modules over a field.

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean [hunk 10]
```diff
@@ -330,10 +330,118 @@ theorem ιMulti_succ_curryLeft {n : ℕ} (m : M) :
...
+  let ⟨_, hgf⟩ := hf; Function.LeftInverse.injective (map_leftInverse_of_leftInverse hgf)
+
+/-- A surjective morphism of modules induces a surjective morphism of exterior algebras.-/
+lemma map_surjective {f : M →ₗ[R] N} (hf : Function.Surjective f) :
+    Function.Surjective (map f) := CliffordAlgebra.map_surjective _ hf
+
+variable {K E F : Type*} [Field K] [AddCommGroup E]
+  [Module K E] [AddCommGroup F] [Module K F]
+
+/-- An injective morphism of vector spaces induces an injective morphism of exterior algebras.-/
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean:440]: nit:
```suggestion
/-- An injective morphism of vector spaces induces an injective morphism of exterior algebras. -/
```
(throughout)

Comment (smorel394) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean]: Like so ?

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean [hunk 11]
```diff
@@ -330,10 +330,123 @@ theorem ιMulti_succ_curryLeft {n : ℕ} (m : M) :
...
+/-- For a linear map `f` from `M` to `N`,
+`ExteriorAlgebra.map g` is a retraction of `ExteriorAlgebra.map f` iff
+`g` is a retraction of `f`. -/
+@[simp]
+lemma leftInverse_map_iff {f : M →ₗ[R] N} {g : N →ₗ[R] M} :
+    LeftInverse (map g) (map f) ↔ LeftInverse g f := by
+  refine ⟨fun h x => ?_, fun h x => ?_⟩
+  · simpa using h (ι _ x)
+  · replace h : g ∘ₗ f = .id := DFunLike.ext _ _ h
+    rw [← AlgHom.comp_apply, map_comp_map, h, map_id, AlgHom.coe_id, id_eq]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean:430]: I pushed a change here to turn this into a `Iff`; are any of your other results amenable to the same strengthening?

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean [hunk 12]
```diff
@@ -330,10 +330,123 @@ theorem ιMulti_succ_curryLeft {n : ℕ} (m : M) :
...
+    Submodule.map (ι R) (LinearMap.range f) :=
+  CliffordAlgebra.ι_range_map_map _
+
+open Function in
+/-- For a linear map `f` from `M` to `N`,
+`ExteriorAlgebra.map g` is a retraction of `ExteriorAlgebra.map f` iff
+`g` is a retraction of `f`. -/
+@[simp]
+lemma leftInverse_map_iff {f : M →ₗ[R] N} {g : N →ₗ[R] M} :
+    LeftInverse (map g) (map f) ↔ LeftInverse g f := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean:426]: Can you prove this for `CliffordAlgebra` too?

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean:426]: Oh, it's not true (in general)!

Comment (smorel394) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean:426]: One direction is very easy (and has the same proof as for the exterior algebra). The other direction is true if `[CliffordAlgebra.ι](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/CliffordAlgebra/Basic.html#CliffordAlgebra.%CE%B9)` is injective, which I thought was true but I'm not used to Clifford algebras (especially over general rings), so who knows. 
When I first wrote the injectivity lemma, I decided against having a Clifford algebra version because my goal was "over a field, `map f` is injective if `f` is injective", which is false in general. But it would be quite easy to add at least one direction of the lemma above for Clifford algebras, if you think that has value (I am not sure myself).

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean (hunk 11 above)
Comment (smorel394) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean:430]: `ExteriorAlgebra.map_surjective` is an `Iff`, but the best way I see to prove it would to first prove that `ιInv` and `map f` compose to `f`.

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean (hunk 12 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean:426]: > The other direction is true if [CliffordAlgebra.ι](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/CliffordAlgebra/Basic.html#CliffordAlgebra.%CE%B9) is injective, which I thought was true but I'm not used to Clifford algebras

This is true whenever `Q` is induced by a bilinear form, though mathlib only actually states it (via `equivExterior`) for rings with an invertible 2. I have plans to tidy that up, as the proof would all work in the more general case.

I don't know if it's true if `Q` is not induced by a bilinear form.

Comment (smorel394) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean:426]: > I think it's worth having one direction of the result, simply because it shortens the proof here.

Ok, just a second.

Comment (smorel394) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean:426]: Done, thought probably not optimal.
As for the question of generalizing to Clifford algebras, I think it might be too ambitious for this PR.

File: Mathlib/LinearAlgebra/CliffordAlgebra/Basic.lean [hunk 13]
```diff
@@ -351,6 +351,26 @@ theorem ι_range_map_map (f : Q₁ →qᵢ Q₂) :
   (ι_range_map_lift _ _).trans (LinearMap.range_comp _ _)
 #align clifford_algebra.ι_range_map_map CliffordAlgebra.ι_range_map_map
 
+open Function in
+/-- If `f` is a linear map from `M₁` to `M₂` that preserves the quadratic forms, and if it has
+a linear retraction `g` that also preserves the quadratic forms, then `CliffordAlgebra.map g`
+is a retraction of `CliffordAlgebra.map f`. -/
+lemma leftInverse_map_if {Q₁ : QuadraticForm R M₁} {Q₂ : QuadraticForm R M₂} (f : Q₁ →qᵢ Q₂)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/CliffordAlgebra/Basic.lean:358]:
```suggestion
lemma leftInverse_map_of_leftInverse {Q₁ : QuadraticForm R M₁} {Q₂ : QuadraticForm R M₂} (f : Q₁ →qᵢ Q₂)
```

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean (hunk 11 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean]: That sounds like a nice result to have, but I think it's fair to declare it out of scope for this PR.

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean [hunk 14]
```diff
@@ -330,10 +330,123 @@ theorem ιMulti_succ_curryLeft {n : ℕ} (m : M) :
...
+  ext i
+  obtain ⟨v, hv⟩ := LinearMap.mem_range.mp (by simp only [SetLike.coe_mem] :
+    (f i).1 ∈ LinearMap.range (ι R (M := M)))
+  rw [← hv, ι_inj]; erw [ι_leftInverse]
+
+/-- Given a linearly ordered family `v` of vectors of `M` and a natural number `n`, produce the
+family of `n`fold exterior products of elements of `v`, seen as members of the exterior algebra. -/
+def ιMulti_family (n : ℕ) {I : Type*} [LinearOrder I] (v : I → M) :
+    {s : Finset I // Finset.card s = n} → ExteriorAlgebra R M :=
+  fun s ↦ ιMulti R n (fun i => v (Finset.orderIsoOfFin _ s.prop i))
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean:367]: Could eliminte the `fun` here:
```suggestion
def ιMulti_family (n : ℕ) {I : Type*} [LinearOrder I] (v : I → M) (s : {s : Finset I // Finset.card s = n}) :
    ExteriorAlgebra R M :=
  ιMulti R n fun i => v (Finset.orderIsoOfFin _ s.prop i)
```
I'd be tempted to make this an `abbrev` rather than a `def`, especially since you include no theorems about it.
If it's an `abbrev`, no one needs any theorems because it because everything can see through it.

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean (hunk 11 above)
Comment (smorel394) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean]: I'm seeing if I can do an easy proof. If I fail, then I'll agree with you.

**Review by eric-wieser — APPROVED** [review]
I'll wait to hear your conclusion on the Iff version of the Surjective proof, but otherwise this looks good to go modulo one more small comment. Thanks!

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean (hunk 12 above)
Comment (smorel394) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean:478]: Okay, it wasn't that bad. I left `mapTriv` and `snd_comp_mapTriv` in the same file for now, but they should probably be moved [there](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/TrivSqZeroExt.html), with better names.

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean [hunk 15]
```diff
@@ -417,6 +417,58 @@ theorem ι_range_map_map (f : M →ₗ[R] N) :
...
+  unfold mapTriv
+  apply TrivSqZeroExt.linearMap_ext
+  · intro r
+    simp only [LinearMap.coe_comp, Function.comp_apply, AlgHom.toLinearMap_apply,
+      TrivSqZeroExt.lift_apply_inl, TrivSqZeroExt.inlAlgHom_apply, TrivSqZeroExt.sndHom_apply,
+      TrivSqZeroExt.snd_inl, map_zero]
+  · intro x
+    simp only [LinearMap.coe_comp, Function.comp_apply, AlgHom.toLinearMap_apply,
+      TrivSqZeroExt.lift_apply_inr, TrivSqZeroExt.inrHom_apply, TrivSqZeroExt.sndHom_apply,
+      TrivSqZeroExt.snd_inr]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean:448]: These two results should move to `TrivSqZeroExt.lean`

Comment (smorel394) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean]: I moved the def and theorem. Morally these should also be done for a noncommutative base ring, but it would require `f` to be `R`-bilinear, not just `R`-linear, so it might complicate things.

File: Mathlib/Algebra/TrivSqZeroExt.lean [hunk 16]
```diff
@@ -936,6 +936,39 @@ def liftEquivOfComm :
       rfl }
 #align triv_sq_zero_ext.lift TrivSqZeroExt.liftEquiv
 
+variable {N : Type*} [AddCommMonoid N] [Module R' N] [Module R'ᵐᵒᵖ N] [IsCentralScalar R' N]
+
+/-- Functoriality of `TrivSqZeroExt`if the ring is commutative : a linear map
+`f : M →ₗ[R'] N` induces a morphism of `R'`-algebras from `TrivSqZeroExt R' M` to
+`TrivSqZeroExt R' N`. -/
+def map' (f : M →ₗ[R'] N) : TrivSqZeroExt R' M →ₐ[R'] TrivSqZeroExt R' N := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/TrivSqZeroExt.lean:945]: I don't think this should be primed:
```suggestion
def map (f : M →ₗ[R'] N) : TrivSqZeroExt R' M →ₐ[R'] TrivSqZeroExt R' N := by
```

File: Mathlib/Algebra/TrivSqZeroExt.lean [hunk 17]
```diff
@@ -936,6 +936,39 @@ def liftEquivOfComm :
...
+      TrivSqZeroExt.inr_mul_inr]
+  · intro r x
+    simp only [map_smul, LinearMap.coe_comp, Function.comp_apply, TrivSqZeroExt.inrHom_apply,
+      TrivSqZeroExt.inlAlgHom_apply]
+    rw [TrivSqZeroExt.inl_mul_eq_smul]
+  · intro r x
+    simp only [op_smul_eq_smul, map_smul, LinearMap.coe_comp, Function.comp_apply,
+      TrivSqZeroExt.inrHom_apply, TrivSqZeroExt.inlAlgHom_apply]
+    rw [TrivSqZeroExt.mul_inl_eq_op_smul]
+    simp only [op_smul_eq_smul]
```
Comment (eric-wieser) [inline Mathlib/Algebra/TrivSqZeroExt.lean:958]: I think you can get here faster with `liftEquivOfComm`, unless I'm missing something.

File: Mathlib/Algebra/TrivSqZeroExt.lean [hunk 18]
```diff
@@ -936,6 +936,39 @@ def liftEquivOfComm :
       rfl }
 #align triv_sq_zero_ext.lift TrivSqZeroExt.liftEquiv
 
+variable {N : Type*} [AddCommMonoid N] [Module R' N] [Module R'ᵐᵒᵖ N] [IsCentralScalar R' N]
+
+/-- Functoriality of `TrivSqZeroExt`if the ring is commutative : a linear map
+`f : M →ₗ[R'] N` induces a morphism of `R'`-algebras from `TrivSqZeroExt R' M` to
+`TrivSqZeroExt R' N`. -/
```
Comment (eric-wieser) [inline Mathlib/Algebra/TrivSqZeroExt.lean:944]:
```suggestion
/-- Functoriality of `TrivSqZeroExt` when the ring is commutative: a linear map
`f : M →ₗ[R'] N` induces a morphism of `R'`-algebras from `TrivSqZeroExt R' M` to
`TrivSqZeroExt R' N`.

Note that we cannot neatly state the non-commutative case, as we do not have morphisms of bimodules.
-/
```

File: Mathlib/Algebra/TrivSqZeroExt.lean (hunk 17 above)
Comment (smorel394) [reply Mathlib/Algebra/TrivSqZeroExt.lean]: Yes, much faster. I also wrote some `simp` lemmas.

File: Mathlib/Algebra/TrivSqZeroExt.lean [hunk 19]
```diff
@@ -936,6 +936,83 @@ def liftEquivOfComm :
       rfl }
 #align triv_sq_zero_ext.lift TrivSqZeroExt.liftEquiv
 
+variable {N P : Type*} [AddCommMonoid N] [Module R' N] [Module R'ᵐᵒᵖ N] [IsCentralScalar R' N]
```
Comment (eric-wieser) [inline Mathlib/Algebra/TrivSqZeroExt.lean:939]: I think it would be reasonable to add `section map` around all of these new results.

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean [hunk 20]
```diff
@@ -330,10 +330,151 @@ theorem ιMulti_succ_curryLeft {n : ℕ} (m : M) :
...
+/-- A morphism of modules that admits a linear retraction induces an injective morphism of
+exterior algebras. -/
+lemma map_injective {f : M →ₗ[R] N} (hf : ∃ (g : N →ₗ[R] M), g.comp f = LinearMap.id) :
+    Function.Injective (map f) :=
+  let ⟨_, hgf⟩ := hf; (leftInverse_map_iff.mpr (DFunLike.congr_fun hgf)).injective
+
+/-- A morphism of modules is surjective if and only the morphism of exterior algebras that it
+induces is surjective. -/
+lemma map_surjective_iff {f : M →ₗ[R] N} :
+    Function.Surjective f ↔ Function.Surjective (map f) := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean:463]: This statement is backwards with respect to its name.
```suggestion
    Function.Surjective (map f) ↔ Function.Surjective f := by
```

Comment (smorel394) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean:463]: I'm not sure why, but ok.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean]: `foo_iff` is how statements of the form `Foo ↔ Bar` are named. Statements of the form `Bar ↔ Foo ` are called `bar_iff` or `bar_iff_foo`.

In this case, putting the `map` on the left also makes this a nice `simp` lemma.

Comment (smorel394) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Basic.lean]: Ah, I see, thanks. Then I should actually make it a 'simp' lemma then.

File: Mathlib/Algebra/TrivSqZeroExt.lean [hunk 21]
```diff
@@ -936,6 +936,70 @@ def liftEquivOfComm :
...
+  [AddCommMonoid P] [Module R' P] [Module R'ᵐᵒᵖ P] [IsCentralScalar R' P]
+
+/-- Functoriality of `TrivSqZeroExt` when the ring is commutative: a linear map
+`f : M →ₗ[R'] N` induces a morphism of `R'`-algebras from `TrivSqZeroExt R' M` to
+`TrivSqZeroExt R' N`.
+
+Note that we cannot neatly state the non-commutative case, as we do not have morphisms of bimodules.
+-/
+def map (f : M →ₗ[R'] N) : TrivSqZeroExt R' M →ₐ[R'] TrivSqZeroExt R' N :=
+  liftEquivOfComm ⟨inrHom R' N ∘ₗ f, fun _ _ => inr_mul_inr _ _ _⟩
```
Comment (eric-wieser) [inline Mathlib/Algebra/TrivSqZeroExt.lean:951]: Please mention this in the commit message

**Review by eric-wieser — APPROVED** [review]
maintainer merge

I pushed some more small cleanups, and fixed a porting note that was causing you to need `erw`. This now looks great! Can you check the commit message reflects what we've ended up at?

**Comment by mattrobball** [comment]
!bench

**Comment by mattrobball** [comment]
Thanks! Functoriality is wonderful. 

Assuming the profiling comes back ok, I will merge.

File: Mathlib/Algebra/TrivSqZeroExt.lean (hunk 21 above)
Comment (smorel394) [reply Mathlib/Algebra/TrivSqZeroExt.lean:951]: I updated the commit message.

**Comment by mattrobball** [comment]
+100 lines or so for +50% in instructions isn't great. These mainly all come from typeclass search. But the problems surfaced are not particular to this file and need to be fixed more generally.

bors merge

**Comment by eric-wieser** [comment]
@mattrobball, I tried making some `simp`s unfold les, lets see if it helps.

**Comment by eric-wieser** [comment]
!bench

**Comment by eric-wieser** [comment]
Well, I guess .4% is better than nothing!

bors merge

**Comment by mattrobball** [comment]
Overall instructions were up by 4B though

**Comment by smorel394** [comment]
Great, now I can PR the exterior power stuff (after I have checked that it still builds).

**Comment by smorel394** [comment]
Here it is: #10654
